US07943609B2
A 250-mL, glass Parr bottle was charged with palladium on carbon (10%, 0.05 g) and 2 mL of ethanol. A solution of (2E)-3-[(11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-yl]-N,N-dimethylprop-2-enamide (210 mg, 0.60 mmol) dissolved in 50 mL of ethanol was then added. The reaction mixture was placed on Parr apparatus and shaken under H2 at 50 PSI (3.4×105 Pa) overnight at ambient temperature. The reaction mixture was treated with additional palladium on carbon (10%, 0.05 g) and shaken under H2 at 50 PSI (3.4×105 Pa) for 24 hours. The reaction mixture was then filtered through a pad of CELITE filter agent. The pad was rinsed with methanol and the combined filtrates were concentrated under reduced pressure to give a white solid. Chromatography (SiO2, 0-15% CMA/CHCl3) gave a white solid that was crystallized from acetonitrile to give 120 mg of 3-[(11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-yl]-N,N-dimethylpropanamide as white crystals, mp 235-237° C.

reactant | (2E)-3-[(11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-yl]-N,N-dimethylprop-2-enamide | 0.60 mmol, 210 mg | NC1=NC2=CC(=CC=C2C2=C1N=C1N2[C@H](COC1)C)/C=C/C(=O)N(C)C | C19H21N5O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.05 g | [Pd] | Pd
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 3-[(11S)-6-amino-11-methyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-yl]-N,N-dimethylpropanamide | 120 mg | NC1=NC2=CC(=CC=C2C2=C1N=C1N2[C@H](COC1)C)CCC(=O)N(C)C | C19H23N5O2
